US06239131B1
Preparation of 3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid
1-(tert-butylcarbonylmethyl-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-ethoxycarbonylphenyl)urea (500 mg) was dissolved in methanol (20 ml), the solution of lithium hydroxide monohydrate (191 mg) in water (10 ml) was added, the mixture was stirred at 50° C. for 2 hours. The reaction mixture was concentrated under reduced pressure, after acidification with 1N hydrochloric acid, the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and recrystallized from ethanol and isopropyl ether, to thereby obtain 380 mg of the titled compound (Yield: 73%).

reactant | 1-(tert-butylcarbonylmethyl-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-ethoxycarbonylphenyl)urea | 500 mg | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O | C30H38N4O6
reactant | lithium hydroxide monohydrate | 191 mg | O.[OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid | 380 mg, Yield: 73% | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O | C28H34N4O6
